US05041453
To 2-cyano-6-hydroxybenzoxazole (11.87 mmoles) and 2-((3-chloromethylphenoxy)methyl)quinoline (11.87 mmoles) in dimethylsulfoxide (20 ml) is added powdered sodium hydroxide (0.475 q). After one week the reaction mixture is poured into ice water and the resulting precipitate collected and purified by HPLC to give 2-cyano-6-(3-(quinolin-2-ylmethyloxy)benzyloxy)-benzoxazole which is used directly in the next step.

reactant | 2-cyano-6-hydroxybenzoxazole | 11.87 mmoles | C(#N)C=1OC2=C(N1)C=CC(=C2)O | C8H4N2O2
reactant | 2-((3-chloromethylphenoxy)methyl)quinoline | 11.87 mmoles | ClCC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C17H14ClNO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-cyano-6-(3-(quinolin-2-ylmethyloxy)benzyloxy)-benzoxazole | C(#N)C=1OC2=C(N1)C=CC(=C2)OCC2=CC(=CC=C2)OCC2=NC1=CC=CC=C1C=C2 | C25H17N3O3
